Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:5]\[H:15])[H:11])([H:8])([H:9])[H:10].[C:3](=[O:4])([H:12])[H:13].[C:6](=[O:7])([H:14])[H:16],65.4234055194765
[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]#[C:4][C:6]#[C:7][H:11])=[O:5])([H:8])([H:9])[H:10],70.7471199125533
[C:1]([N:2]([C:3](=[N:4]\[H:12])/[C:5]([O:6][H:11])=[N:7]/[H:14])[H:13])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],20.0299920616037
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@:3]1([H:12])[O:4][O:7][C:6]([H:13])=[C:5]1[H:11])([H:8])([H:9])[H:10],88.80420973568441
[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1>>[N:1]1([H:9])[C:2][C@@:3]2([H:7])[C@:4]1([H:8])[C:5]([H:10])([H:11])[O:6]2,113.886879492551
[C:1]1([H:8])([H:10])[C@:2]([O:3][C:4](=[O:5])[H:12])([H:11])[C@:6]1([C:7][H:13])[H:9]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],25.634464399395497
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:4]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[C:5](=[O:6])=[N:7][H:16].[O:3]([H:12])[H:15],49.0603737773866
[C:1]([C:2]1([H:11])[C:3]([H:12])([H:13])[C:4](=[O+:6][C-:5]([H:14])[H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],17.560059571371703
[C:1](/[C:2](=[N:3]/[O:4][H:10])[H:12])([H:7])([H:8])[H:9].[C:5]([O:6][H:13])[H:11]>>[C:1](/[C:2](=[N:3]/[O:4][H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9],14.294551901649498
[C:1]([C@@:6]1([H:12])[C@:4]([C:3](=[C:2])[H:10])([H:11])[O:5]1)([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12],7.035585932996199
[C:1]([C@@:2]1([C:5]#[N:6])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9]>>[C:1]([C@@:2]12[C@@:3]([H:11])([O:4]1)[N:6]([H:10])[C:5]2)([H:7])([H:8])[H:9],102.98298701588399
[C:2](#[C:3][H:7])[H:6].[O:1][C:4](=[N:5])[H:8]>>[o:1]1[c:2]([H:6])[c:3]([H:7])[c:4]([H:8])[n:5]1,42.64542590000052
[C:1](=[C:2]([C:3]([H:10])([H:11])[H:12])[H:9])([H:6])[H:8].[C:4](=[O:5])([H:7])[H:13]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[O:5])[H:13])[H:9])([H:6])([H:7])[H:8],45.130613440801795
[C:1]([C:2](=[C:3]([O-:4])[C+:5]([O:6][H:10])[H:12])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],5.818608208892691
[C:1]([C:2]#[C:3][H:16])([H:8])([H:9])[H:10].[C:4]([C:5]([H:11])([H:12])[H:13])(=[C:6]([H:14])[H:15])[O:7][H:17]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10],60.7014151398417
[O:1]([C:2]([C:5]1=[N:6][C:4]1=[C:3])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7],18.141579354042207
[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([N:4]([C:5][H:11])[H:10])[O:3][O:6]1)([H:7])([H:8])[H:9],183.275079239315
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7]>>[O:1]([C:3]([C@:4]([C:2][H:8])([C:5](=[O:6])[H:12])[H:11])([H:9])[H:10])[H:7],92.26646345090508
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:6]([C:5]([C:3]([O:4][H:14])([O:7][H:19])[H:13])([H:15])[H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],117.65146534257299
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([H:7])([H:8])([H:9])[H:14].[C:2]([C:3]([H:11])([H:12])[H:13])(=[O:4])[H:10],72.33991587182621
[O:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[C:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],49.452870444275504
[O:1]([C:2]([C@@:3]1([H:11])[C:4]([H:12])=[C:6]1[C:7](=[O:5])[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],66.6296567428341
[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([O:3][H:7])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9],63.4245004107324
[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:7])([H:8])[H:9].[H:10][H:11]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],73.57585294077666
[C:1]([C@@:2]([O:3][H:11])([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[H:10])([H:7])([H:8])[H:9].[C:4]([C:5]([H:13])([H:14])[H:15])(=[O:6])[H:12].[H:11][H:16],61.2287444301245
